US07423050B2
8. 2-Bromo-6-(1-methylpiperidin-4-ylcarbonyl)-pyridine
Add a solution of n-butyllithium (1.9M in n-hexane, 4 ml, 7.6 mmol) to a solution of 2,6-dibromopyridine (1.81 g, 7.64 mmol) in MTBE (20 mL) dropwise under nitrogen, over 20 min., maintaining the temperature between −72 and −67° C. Stir the yellow heterogeneous solution at −70° C. for 20 min. to provide a green homogeneous solution. Add a solution of 1-methyl-4-(pyrrolidin-1-yl-carbonyl)piperidine (1 g, 5.09 mmol) in 10 mL MTBE dropwise over 20 min., maintaining the temperature below −69° C. Stir the yellow mixture at −75° C. for 1 hr. Quench the reaction mixture with a saturated solution of ammonium chloride (5 mL) between 0 and 10° C. Acidify the mixture to pH 2 with fuming HCl (2 mL). Extract the organic layer. Wash the aqueous phase with MTBE (50 mL), make the aqueous layer basic with a solution of 30% NaOH, and extract with ethyl acetate (2×50 mL). Combine the organic layers, dry over MgSO4, and concentrate under reduced pressure at 40° C. to provide the title intermediate as an oil (1.23 g, 85% yield).

reactant | n-butyllithium | 7.6 mmol, 1.9M, 4 ml | C(CCC)[Li]
reactant | 2,6-dibromopyridine | 7.64 mmol, 1.81 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 1-methyl-4-(pyrrolidin-1-yl-carbonyl)piperidine | 5.09 mmol, 1 g | CN1CCC(CC1)C(=O)N1CCCC1 | C11H20N2O
solvent | MTBE | 20 mL | CC(C)(C)OC | C5H12O
solvent | MTBE | 10 mL | CC(C)(C)OC | C5H12O
product | 2-Bromo-6-(1-methylpiperidin-4-ylcarbonyl)-pyridine | 1.23 g, 85% yield | BrC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H15BrN2O
